US03974150
A mixture of sodium (3S,5R,6R)-6-formamido-2,2-dimethylpenam-3-carboxylate (15.0109 g., 56.4 mmole) and p-nitrobenzyl bromide (12.16805 g., 56.3 mmole) in N,N-dimethylformamide (250 ml.) was stirred for 4 hours at +20°to +25°, after which time all the solid had dissolved. The solvent was removed by evaporation and the residual paste was suspended in ethyl acetate (100 ml.) and washed with brine. The aqueous layer was washed with ethyl acetate (150 ml.) and the combined organic layers washed with water (5 × 250 ml.), passed through phase-separating paper and evaporated to a pale-yellow foam. Chromatography on kieselgel G (600 g.) in benzene-ethyl acetate (1:1) gave p-nitrobenzyl (3S,5R,6R)-6-formamido-2,2-dimethylpenam-3-carboxylate which crystallised from ether-ethyl acetate (3:1) as a white solid (8.73 g., 23 mmole, 41%); m.p. 129° to 132°; [α]D + 190°; λmax. 262 (ε 10,170); νmax. 3420 (NH), 2880 (HCO), 1788 (azetidin-2-one), 1750 (CO2R), 1695 and 1505 (CONH), 1528 and 1346 (Ar-NO2), 841 cm.-1 (para-disubstituted aromatic ring); τ 1.73, 2.43 (2H, AB-q, J 8.5 Hz, p-nitrophenyl), 1.75 (1H, s, HCO), 3.37 (1H, d, J 9 Hz, NH), 4.21 (1H, dd, J 9 and 4.5 Hz, C6 -H), 4.42 (1H, d, J 4.5 Hz, C5 -H), 4.68 (2H, s, NO2C6H4CH2), 5.46 (1H, s, C3 -H), 8.36 (3H, s) and 8.54 (3H, s) (C[CH3 ]2). (Found : C, 50.5; H, 4.6; N, 11.1; S, 8.5.C16H17N3O6S (379.4) requires C, 50.7; H, 4.6; N, 11.1; S, 8.4%).

reactant | sodium (3S,5R,6R)-6-formamido-2,2-dimethylpenam-3-carboxylate | 56.4 mmole, 15.0109 g | C(=O)N[C@H]1[C@@H]2N([C@H](C(S2)(C)C)C(=O)[O-])C1=O.[Na+]
reactant | p-nitrobenzyl bromide | 56.3 mmole, 12.16805 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | p-nitrobenzyl (3S,5R,6R)-6-formamido-2,2-dimethylpenam-3-carboxylate | C(=O)N[C@H]1[C@@H]2N([C@H](C(S2)(C)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H17N3O6S
